datasets/10k_Mayr_OG.csv
SMILES Labelled
"CC[O:72]/[C:11](=[CH:10]/[S+:61](C)C)[O-:12].C[N+]1=C([C:22](/[CH:21]=[CH:20]/[C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)=[O:23])N(C(C)(C)C)C=C1>>CC[O:72][C:11]([CH:10]([CH:20]([CH:21]=[C:22](C1=[N+](C)C=CN1C(C)(C)C)[O-:23])[C:31]1=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]1)[S+:61](C)C)=[O:12] 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"CC[O:92][C:71]([CH-:10][C:61]1=[CH:62][CH:63]=[C:64]([N+:65](=[O:66])[O-:96])[CH:83]=[CH:82]1)=[O:72].C[Si](C)(C)OC(C1=CC=CC=C1)(C1=CC=CC=C1)C1CCC/[N+:23]1=[CH:22]/[CH:21]=[CH:20]/[C:31]1=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]1>>CC[O:92][C:71]([CH:10]([CH:20]([CH:21]=[CH:22][N:23]1CCCC1C(O[Si](C)(C)C)(C1=CC=CC=C1)C1=CC=CC=C1)[C:31]1=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]1)[C:61]1=[CH:62][CH:63]=[C:64]([N+:65](=[O:66])[O-:96])[CH:83]=[CH:82]1)=[O:72] 10=20;20,21=21,22;22,23=23"
"C1=CC=C(/[CH:10]=[C:11](/C2=CC=CC=C2)[O-:12])C=C1.CO[C:34]1=[CH:33][CH:32]=[C:31]([C+:20]([C:41]2=[CH:42][C:43](C)=[CH:44][CH:45]=[CH:46]2)[C:51]2=[CH:52][CH:53]=[CH:54][CH:55]=[CH:56]2)[CH:36]=[CH:35]1>>CO[C:34]1=[CH:33][CH:32]=[C:31]([C:20]([CH:10](C2=CC=CC=C2)[C:11](C2=CC=CC=C2)=[O:12])([C:41]2=[CH:42][C:43](C)=[CH:44][CH:45]=[CH:46]2)[C:51]2=[CH:52][CH:53]=[CH:54][CH:55]=[CH:56]2)[CH:36]=[CH:35]1 10,11=10,20;12=11,12"
"CC[C:11](C)=[CH2:10].Cl[C:33]1=[CH:34][CH:35]=[CH:36][C:31]([C+:20]([C:41]2=[CH:42][C:43](Cl)=[CH:44][CH:45]=[CH:46]2)[C:51]2=[CH:52][C:53](Cl)=[CH:54][CH:55]=[CH:56]2)=[CH:32]1>>CC[C+:11](C)[CH2:10][C:20]([C:31]1=[CH:32][C:33](Cl)=[CH:34][CH:35]=[CH:36]1)([C:41]1=[CH:42][C:43](Cl)=[CH:44][CH:45]=[CH:46]1)[C:51]1=[CH:52][C:53](Cl)=[CH:54][CH:55]=[CH:56]1 10,11=10,20"
"CO[C:54]1=[CH:53][CH:52]=[C:51]([CH:20]=[C:21]([S:32](C2=CC=CC=C2)(=[O:33])=[O:34])[S:41](C2=CC=CC=C2)(=[O:42])=[O:43])[CH:55]=[CH:56]1.C[N:82]1[C:71](=[O:72])[C-:10]([I+:61]C2=CC=CC=C2)[C:91](=[O:92])[N:102](C)[C:83]1=[O:84]>>CO[C:54]1=[CH:53][CH:52]=[C:51]([CH:20]([C:10]2([I+:61]C3=CC=CC=C3)[C:71](=[O:72])[N:82](C)[C:83](=[O:84])[N:102](C)[C:91]2=[O:92])[C-:21]([S:32](C2=CC=CC=C2)(=[O:33])=[O:34])[S:41](C2=CC=CC=C2)(=[O:42])=[O:43])[CH:55]=[CH:56]1 10=20;20,21=21"
"CC(C)(C)[C:23]1=[CH:22][C:21](=[CH:20]/[CH:41]=[CH:42]/C2=CC=C(Cl)C=C2)[CH:32]=[C:33](C(C)(C)C)[C:24]1=[O:25].C[Si](C)(C)C12[C:62]3([CH:11]=[CH2:10])[Co-3:63]1(C#[O+])(C#[O+])(C#[O+])[Co-3:73]23(C#[O+])(C#[O+])[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1>>CC(C)(C)[C:23]1=[C:24]([O-:25])[C:33](C(C)(C)C)=[CH:32][C:21]([CH:20]([CH2:10][CH+:11][C:62]23C4([Si](C)(C)C)[Co-3:63]2(C#[O+])(C#[O+])(C#[O+])[Co-3:73]43(C#[O+])(C#[O+])[P+](C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)/[CH:41]=[CH:42]/C2=CC=C(Cl)C=C2)=[CH:22]1 10,11=10,20;20,21=21,22;22,23=23,24;24,25=25"
"CC[O:33][C:22](/[CH:21]=[CH:20]\[C:41](=[O:42])[O:52]CC)=[O:23].C[OH:10]>>CC[O:33][C:22](=[CH:21][CH:20]([OH+:10]C)[C:41](=[O:42])[O:52]CC)[O-:23] 10=20;20,21=21,22;22,23=23"
C1CCN(C[C@@H]2CCC[NH:10]2)C1.[O+]#C[Cr-3:34]12345(C#[O+])(C#[O+])C6C1C2[C:33]3([C:32]#[C:31][C+:20]([C:41]1=[CH:42][CH:43]=[CH:44][CH:45]=[CH:46]1)[C:51]1=[CH:52][CH:53]=[CH:54][CH:55]=[CH:56]1)C4C65>>[O+]#C[Cr-3:34]12345(C#[O+])(C#[O+])C6C1C2[C:33]3([C:32]#[C:31][C:20]([NH+:10]1CCC[C@H]1CN1CCCC1)([C:41]1=[CH:42][CH:43]=[CH:44][CH:45]=[CH:46]1)[C:51]1=[CH:52][CH:53]=[CH:54][CH:55]=[CH:56]1)C4C65 10=20
"CC[Hg:11][CH2:10]C.CO[C:34]1=[CH:33][CH:32]=[C:31]([CH+:20][C:41]2=[CH:42][CH:43]=[C:44](C)[CH:45]=[CH:46]2)[CH:36]=[CH:35]1>>CC[Hg+:11].CO[C:34]1=[CH:33][CH:32]=[C:31]([CH:20]([CH2:10]C)[C:41]2=[CH:42][CH:43]=[C:44](C)[CH:45]=[CH:46]2)[CH:36]=[CH:35]1 10,11=10,20"
"Br[C:44]1=[CH:43][CH:42]=[C:41](/[CH:20]=[CH:21]/[N+:22](=[O:23])[O-:33])[CH:46]=[CH:45]1.C1=CC=C([Ge:63](C2=CC=CC=C2)(C2=CC=CC=C2)[CH2:62][CH:11]=[CH2:10])C=C1>>Br[C:44]1=[CH:43][CH:42]=[C:41]([CH:20]([CH2:10][CH+:11][CH2:62][Ge:63](C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)[CH:21]=[N+:22]([O-:23])[O-:33])[CH:46]=[CH:45]1 10,11=10,20;20,21=21,22;22,23=23"
"C[Si:63](C)(C)[CH2:62][CH:11]([H:10])[CH2:72][Pb:73](C)(C)C.FC(F)(F)[S:20][N:21]([S:32](C1=CC=CC=C1)(=[O:33])=[O:34])[S:42](C1=CC=CC=C1)(=[O:43])=[O:44]>>C1=CC=C([S:32]([N-:21][S:42](C2=CC=CC=C2)(=[O:43])=[O:44])(=[O:33])=[O:34])C=C1.C[Si:63](C)(C)[CH2:62][CH+:11][CH2:72][Pb:73](C)(C)C.FC(F)(F)[S:20][H:10] 10,11=10,20;20,21=21"
"CO[C:34]1=[CH:33][CH:32]=[C:31]([CH:20]=[N+:21](C)C)[CH:36]=[CH:35]1.C[S+:61](C)/[CH:10]=[C:11](/C1=CC=CC=C1)[O-:12]>>CO[C:34]1=[CH:33][CH:32]=[C:31]([CH:20]([CH:10]([C:11](C2=CC=CC=C2)=[O:12])[S+:61](C)C)[N:21](C)C)[CH:36]=[CH:35]1 10,11=10,20;12=11,12;20,21=21"
"C1=C[C:31]2=[C:32](C=C1)[CH:33]=[CH:34][C:35]1=[C:36](C=CC=C1)[CH+:20]2.C1C[N:10]=[C:11]2[N:12](C1)CC[S:62]2>>C1=C[C:31]2=[C:32](C=C1)[CH:33]=[CH:34][C:35]1=[C:36](C=CC=C1)[CH:20]2[N:10]1CCC[N+:12]2=[C:11]1[S:62]CC2 10,11=10,20;12=11,12"
"CC1(C)[O:62][C:91](=[O:92])[C-:10](CC2=CC=CC=C2)[C:72](=[O:73])[O:83]1.[O-][N+:22]([C:21]1=[CH:20]N2N=N[N:35]=[C:34]2[CH:33]=[CH:32]1)=[O:23]>>CC1(C)[O:62][C:91](=[O:92])[C:10](CC2=CC=CC=C2)([CH:20]2N3N=N[N:35]=[C:34]3[CH:33]=[CH:32][C:21]2=[N+:22]([O-])[O-:23])[C:72](=[O:73])[O:83]1 10=20;20,21=21,22;22,23=23"
